US08445501B2
4-{[4-(5-Butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester
Starting from 4-(5-butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A71) and commercially available 4-amino-piperidine-1-carboxylic acid tert-butyl ester the title compound was obtained as colorless solid.

reactant | 4-(5-butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C(CCC)OC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=CN2)C(=O)O | C18H17N3O5
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
product | 4-{[4-(5-Butoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCCC | C28H35N5O6
